US06245716B1
3,6-Dimethyl-2-nitrobenzoic acid in an amount of 9.6 g (51 mmol) was dissolved in 100 ml benzene and then followed by an addition of thionyl chloride in an amount of 8.8 g (74 mmol) and pyridine in an amount of 0.1 lg. The mixture was then heated for 2 hours under reflux, and the solvent therein was distillated out under reduced pressure to obtain 3,6-dimethyl-2-nitrobenzoyl chloride in an amount of 10.3 g.

reactant | 3,6-Dimethyl-2-nitrobenzoic acid | CC=1C(=C(C(=O)O)C(=CC1)C)[N+](=O)[O-] | C9H9NO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3,6-dimethyl-2-nitrobenzoyl chloride | CC=1C(=C(C(=O)Cl)C(=CC1)C)[N+](=O)[O-] | C9H8ClNO3
